US04558058
Sec.-butyl 1,4-dihydro-2,6-dimethyl-4-(2,3-dichlorophenyl)-5-(3-benzyl-1,2,4-oxadiazol-5-yl)pyridine-3-carboxylate
1.75 g of 2,3-dichlorobenzaldehyde, 2.2 g of 3-acetonyl-1,2,4-oxadiazole, 1.6 g of sec.-butyl acetoacetate and 1.2 g of 25% strength aqueous ammonia solution in 50 ml of ethanol are heating to boiling for 6 hours. After concentrating, there remains an oily residue which is triturated with ether/petroleum ether and gradually crystallises. The resulting solid is then recrystallised from ethyl acetate/isopropanol: melting point=116° to 117° C.

reactant | 2,3-dichlorobenzaldehyde | 1.75 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | 3-acetonyl-1,2,4-oxadiazole | 2.2 g | C(C(=O)C)C1=NOC=N1 | C5H6N2O2
reactant | sec.-butyl acetoacetate | 1.6 g | C(CC(=O)C)(=O)OC(C)CC | C8H14O3
reactant | ammonia | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Sec.-butyl 1,4-dihydro-2,6-dimethyl-4-(2,3-dichlorophenyl)-5-(3-benzyl-1,2,4-oxadiazol-5-yl)pyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OC(C)CC)C1=C(C(=CC=C1)Cl)Cl)C1=NC(=NO1)CC1=CC=CC=C1)C | C27H27Cl2N3O3
